US04999356
A mixture of 5.5 g of 3-(1-piperazinyl)-1-[4-(trifluoromethyl)phenyl]-1H-indazole, 4.8 g of nitrourea, and 80 ml of dimethylformamide was heated on a steam bath for 15 minutes. The reaction mixture was then poured into water and the resulting precipitate was collected, washed with water, and dried. The precipitate was purified on a Water's Model 500 Preparative High Pressure Liquid Chromatograph (2×) utilizing two silica gel columns and chloroform/methanol (5%) as the eluent. Concentration of the appropriate fractions yielded a solid which was recrystallized from acetonitrile to afford 2.3 g (37%) of 4-[1-(4-trifluoromethyl)phenyl)-1H-indazol-3-yl]-1-piperazine carboxamide, m.p. 138°-140°.

reactant | 3-(1-piperazinyl)-1-[4-(trifluoromethyl)phenyl]-1H-indazole | 5.5 g | N1(CCNCC1)C1=NN(C2=CC=CC=C12)C1=CC=C(C=C1)C(F)(F)F | C18H17F3N4
reactant | nitrourea | 4.8 g | [N+](=O)([O-])NC(=O)N | CH3N3O3
reactant | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-piperazine carboxamide | N1(CCNCC1)C(=O)N | C5H11N3O
